US06300363B1
To a mixture of 4-chloropiridine-N-oxide (5.00 g, 38.6 mmol) and trimethylsilyl cyanide (4.84 g, 46.3 mmol) in dichloromethane (60 ml) cooled to 0° C. was added dropwise N,N-dimethylcarbamoyl chloride (3.8 ml, 40.5 mmol). The mixture was allowed to warm to ambient temperature and stirred for 16 h. The mixture was cooled to 0° C. and a 30% aqueous solution of K2CO3 (100 ml) was added. The crude product was extracted with dichloromethane (100 ml×2), the organic extracts dried (MgSO4) and evaporated to give 4-chloro-2-pyridinecarbonitrile (5.35 g, 100%). 1H-NMR (CDCl3) δ: 8.63 (1 H, d, J=4.8 Hz), 7.72 (1 H, d, J=2.6 Hz), 7.55 (1 H, dd, J=1.8, 5.1 Hz).

reactant | 4-chloropiridine-N-oxide | 38.6 mmol, 5.00 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
reactant | trimethylsilyl cyanide | 46.3 mmol, 4.84 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 40.5 mmol, 3.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | K2CO3 | 100 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-chloro-2-pyridinecarbonitrile | 5.35 g, 100% | ClC1=CC(=NC=C1)C#N | C6H3ClN2
